US04942114
Step 2: Production of 4-Chloro-3-nitrobenzenesulfonyl Chloride:
1250 ml of phosphorus oxychloride was added dropwise to a mixture comprising 1280 g of potassium 4-chloro-3-nitrobenzenesulfonate, 1150 ml of acetonitrile, 250 ml of sulforane and 30 ml of dimethylacetamide, while the inner temperature of the reaction system was kept at from 60° C. to 70° C. After being reacted for 3 hours at 73° C., the reaction mixture was cooled with water and 400 ml of water was gradually added thereto, and then the resulting mixture was poured into 5 liters of ice-water. The crystal precipitated was taken out by filtration, washed with water and dried. Yield: 1060 g, 84%.

reactant | phosphorus oxychloride | 1250 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | potassium 4-chloro-3-nitrobenzenesulfonate | 1280 g | ClC1=C(C=C(C=C1)S(=O)(=O)[O-])[N+](=O)[O-].[K+]
reactant | acetonitrile | 1150 ml | C(C)#N | C2H3N
reactant | dimethylacetamide | 30 ml | CC(=O)N(C)C | C4H9NO
solvent | water | 400 ml | O | H2O
product | 4-Chloro-3-nitrobenzenesulfonyl Chloride | ClC1=C(C=C(C=C1)S(=O)(=O)Cl)[N+](=O)[O-] | C6H3Cl2NO4S
